US03972900
0.9 g of tertbutylamine was added dropwise at 10°C at a stirred solution of 0.975 g of 7-(1'-acetoxyethyl)-2-bromoacetylbenzofuran (prepared as described in the penultimate paragraph of part A of Example 1) in 20 ml of dry diethyl ether. The mixture was then allowed to stand at 0°C for 20 hours. The cold solution was filtered and the filtrate extracted with dilute hydrochloric acid. The acidic extract was made basic with dilute aqueous sodium hydroxide solution and extracted twice with diethyl ether. The combined extracts were washed with water and with brine and then dried over anhydrous sodium sulphate. The sodium sulphate was filtered off, the filtrate evaporated to dryness under reduced pressure and the crude, unstable 7-(1'-acetoxyethyl)-2-benzofuranyl, (tertbutylaminomethyl) ketone obtained was used in the process without further purification.

reactant | tertbutylamine | 0.9 g | C(C)(C)(C)N | C4H11N
reactant | 7-(1'-acetoxyethyl)-2-bromoacetylbenzofuran | 0.975 g | C(C)(=O)OC(C)C1=CC=CC=2C=C(OC21)C(CBr)=O | C14H13BrO4
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (tertbutylaminomethyl) ketone | C(C)(C)(C)NCC(=O)CNC(C)(C)C | C11H24N2O
